US09428502B2
Compound 62.4. t-Butyl 4-(1H-indazol-5-yl)piperidine-1-carboxylate
Into a 50-mL three neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a suspension of Zn (990 mg, 15.1 mmol) in DMA (1 mL) A 7:5 v/v mixture of TMSCl/1,2-dibromoethane (0.12 mL) was added drop-wise at a rate to maintain the temperature below 65° C., then the mixture was stirred for an additional 10 min. A solution of tert-butyl 4-iodopiperidine-1-carboxylate (3.17 g, 10.2 mmol) in DMA (2 mL) was added drop-wise and stirred at 40-45° C. for 30 min. The resulting mixture was added to a mixture of 5-bromo-1H-indazole (1.00 g, 5.08 mmol), CuI (80 mg, 0.42 mmol) and Pd(dppf)Cl2 (260 mg, 0.36 mmol) in DMA (1 mL) in a 50-mL round-bottom flask under a nitrogen atmosphere. The resulting mixture was stirred overnight at 85° C., then cooled and diluted with ethyl acetate (50 mL) and washed with brine (3×20 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1/5) as the eluent to yield the title compound as a yellow solid (200 mg, 12%).

reactant | TMSCl 1,2-dibromoethane | 0.12 mL | C[Si](C)(C)Cl.BrCCBr
reactant | tert-butyl 4-iodopiperidine-1-carboxylate | 10.2 mmol, 3.17 g | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | 5-bromo-1H-indazole | 5.08 mmol, 1.00 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Zn | 15.1 mmol, 990 mg | [Zn] | Zn
catalyst | CuI | 0.42 mmol, 80 mg | [Cu]I
catalyst | Pd(dppf)Cl2 | 0.36 mmol, 260 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | t-Butyl 4-(1H-indazol-5-yl)piperidine-1-carboxylate | 200 mg, 12% | N1N=CC2=CC(=CC=C12)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O2
